US07705004B2
A mixture of 2-chloro-N-(1-methyl-1H-indazol-5-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (1158 mg, 0.349 mmol), 6-amino-3,4-dihydroquinolin-2(1H)-one (113 mg, 0.697 mmol) and TMSCl (0.300 mL, 2.37 mmol) in nBuOH (3 mL) was stirred at 135° C. for 44 h. nBuOH was removed in vacuo. The residue was purified by HPLC to give 6-(4-(1-methyl-1H-indazol-5-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one (25 mg).

reactant | 2-chloro-N-(1-methyl-1H-indazol-5-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.349 mmol, 1158 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC=2C=C1C=NN(C1=CC2)C | C21H17ClN6O2S
reactant | 6-amino-3,4-dihydroquinolin-2(1H)-one | 0.697 mmol, 113 mg | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
reactant | TMSCl | 2.37 mmol, 0.300 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 3 mL | C(CCC)O | C4H10O
product | 6-(4-(1-methyl-1H-indazol-5-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one | 25 mg | CN1N=CC2=CC(=CC=C12)NC=1C2=C(N=C(N1)NC=1C=C3CCC(NC3=CC1)=O)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C30H26N8O3S
